US07776897B2
(1E)-8-Methoxy-2,3,4,5,6,7-hexahydroazocine (614 mg) and p-toluenesulfonic acid monohydrate (207 mg) were added to a toluene (20 ml) solution of 1-cyclohexylcyclopentanecarbohydrazide (762 mg), followed by stirring at 105° C. for 3 days. The reaction solution and chloroform were added to a saturated aqueous sodium hydrogen carbonate solution and then the organic layer was separated. Furthermore, the organic layer washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and filtered and then the solvent was removed by evaporation under reduced pressure. The resulting crude product was purified by flash column chromatography (chloroform:methanol=97:3) to obtain 152 mg of 3-(1-cyclohexylcyclopentyl)-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine (pale brown solid).

reactant | (1E)-8-Methoxy-2,3,4,5,6,7-hexahydroazocine | 614 mg | CO/C=1/CCCCCC\N1 | C8H15NO
reactant | p-toluenesulfonic acid monohydrate | 207 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1-cyclohexylcyclopentanecarbohydrazide | 762 mg | C1(CCCCC1)C1(CCCC1)C(=O)NN | C12H22N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1-cyclohexylcyclopentyl)-5,6,7,8,9,10-hexahydro[1,2,4]triazolo[4,3-a]azocine | 152 mg | C1(CCCCC1)C1(CCCC1)C1=NN=C2N1CCCCCC2 | C19H31N3
